US07855215B2
5-(6-Phenylcarbamoyl-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To an ice-cooled solution of 400 mg (0.90 mMol) 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid in 4 ml DMF, 402 μl (2.7 mMol) diethyl-cyanophosphonate and 248 μl (2.7 mMol) aniline are added. After stirring the solution for 3 h at rt, another 402 μl diethyl-cyanophosphonate are added and stirring continued for 16 h. Then the mixture is diluted with EtOAc and sat. NaHCO3, the aqueous layer separeted off and extracted twice with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and partially concentrated until crystals are formed. These are filtered and washed with EtOAC/DIPE, yielding the title compound: m.p.: 227-229° C.; MS: [M−1]=518; HPLC: AtRet=17.2.

reactant | 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid | 0.90 mMol, 400 mg | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=CC(=NC=N1)C(=O)O)(F)F | C21H15F3N4O4
reactant | diethyl-cyanophosphonate | 2.7 mMol, 402 μl | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | aniline | 2.7 mMol, 248 μl | NC1=CC=CC=C1 | C6H7N
reactant | diethyl-cyanophosphonate | 402 μl | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-(6-Phenylcarbamoyl-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)C(NC1=CC=CC=C1)=O)(F)F | C27H20F3N5O3
